US06713471B1
To a suspension of 1-(2-aminophenyl)-4-chloro-1-butanone (508 mg, 2.6 mmol) in concentrated HCl (3.5 mL) at −5° C. was added a solution of NaNO2 (193 mg, 2.8 mmol) in H2O (0.75 mL), and the reaction mixture was stirred for 1 h. A solution of SnCl2-2H2O (1.37 g, 6.07 mmol) in concentrated HCl (1.9 mL) was added at −5° C. to the solution, and this stirred for 1 h under ice cooling. The reaction was quenched with H2O and extracted into Et2O (100 mL). The organic solution was washed with H2O (50 mL) and brine (50 mL), dried over MgSO4 and concentrated in vacuo. Purification by column chromatography afforded 3-(3-chloropropyl)-1H-indazole (126 mg, 25%) as a yellow solid. The title compound was isolated as a yellow oil (38 mg, 77%) according to the method of Example 286, Step C from (8aS,12aR)-6,7,8a,9,10,11,12,12a-octahydro-5H-pyrido[4,3-b][1,4]thiazepino[2,3,4-hi]indole (30 mg, 0.12 mmol) and 3-(3-chloropropyl)-1H-indazole (44 mg, 0.24 mmol). 1H NMR (CDCl3) δ1.83-2.19 (m, 7H), 2.23-2.35 (m, 1H), 2.43-2.54 (m, 2H), 2.72-2.79 (m, 1H), 2.81-2.88 (m, 1H), 2.92-3.11 (m, 4H), 3.12-3.21 (m, 1H), 3.24-3.29 (m, 1H), 3.51-3.62 (m, 1H), 3.80-3.92 (m, 1H), 6.61 (t, 1H, J=7.5 Hz), 6.84 (d, 1H, J=6.6 Hz), 6.94 (dd, 1H, J=1.1, 7.7 Hz), 7.11-7.16 (m, 1H), 7.34-7.48 (m, 2H), 7.70 (d, 1H, J=8.0 Hz) ppm.

reactant | 1-(2-aminophenyl)-4-chloro-1-butanone | 2.6 mmol, 508 mg | NC1=C(C=CC=C1)C(CCCCl)=O | C10H12ClNO
reactant | NaNO2 | 2.8 mmol, 193 mg | N(=O)[O-].[Na+]
solvent | HCl | 3.5 mL | Cl | ClH
solvent | H2O | 0.75 mL | O | H2O
solvent | HCl | 1.9 mL | Cl | ClH
product | 3-(3-chloropropyl)-1H-indazole | 126 mg, 25% | ClCCCC1=NNC2=CC=CC=C12 | C10H11ClN2
